US05030727
2-methyl-6-fluoro-5H-thiazolo-(2,3-b)-quinazolin-5-one (compound 59)
10.8 g of 6-fluoroanthanilamide and 9.4 g of 2-chloro-5-methylthiazole were stirred for 7 hours at 150° C. After working up in the conventional manner there was obtained 13.5 g (83%) of the above compound; m.p. 245°-246° C.

reactant | 6-fluoroanthanilamide | 10.8 g | FC=1C=CC=C(C1C(=O)N)N | C7H7FN2O
reactant | 2-chloro-5-methylthiazole | 9.4 g | ClC=1SC(=CN1)C | C4H4ClNS
product | 2-methyl-6-fluoro-5H-thiazolo-(2,3-b)-quinazolin-5-one | 13.5 g, 83% | CC1=CN2C(=NC3=CC=CC(=C3C2=O)F)S1 | C11H7FN2OS
